US07700628B2
Preparation of 5-Fluoro-N-(5-methylisoxazol-3-yl)-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide
Using methods substantially equivalent to those described in Example 91-G, 5-fluoro-N-(5-methylisoxazol-3-yl)-2-[2-(1-methylpiperidin-4-ylxy)-4-(pyrrlidin-1-yl)-benzoylamino]benzamide was prepared from 6-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)phenyl]-4H-3,1-benzoxazin-4-one and 3-amino-5-methylisoxazole.

reactant | 6-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)phenyl]-4H-3,1-benzoxazin-4-one | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
reactant | 3-amino-5-methylisoxazole | NC1=NOC(=C1)C | C4H6N2O
product | 5-Fluoro-N-(5-methylisoxazol-3-yl)-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide | FC=1C=CC(=C(C(=O)NC2=NOC(=C2)C)C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O | C28H32FN5O4
